US09303035B2
Step 7: 10-(5-Chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-8-((2-oxopyrrolidin-1-yl)methyl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione
Sodium hydride (60% wt in mineral oil, 26.8 mg, 0.671 mmol) was added to a solution of 4-bromo-N-((10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazin-8-yl)methyl)butanamide (82 mg, 0.134 mmol) in THF (6711 μl). The mixture was heated at reflux for 1 hour, then cooled to room temperature and quenched with water (30 ml). The mixture was extracted with ethyl acetate (2×30 ml). The combined organic extracts were washed with brine, passed through a hydrophobic frit and evaporated under vacuum to afford the title compound as a mixture of diastereomers.

reactant | Sodium hydride | 0.671 mmol, 26.8 mg | [H-].[Na+]
reactant | 4-bromo-N-((10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazin-8-yl)methyl)butanamide | 0.134 mmol, 82 mg | BrCCCC(=O)NCC1CN2C(C(O1)C=1OC(=CC1)Cl)=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O | C24H25BrClN5O5S
solvent | THF | 6711 μl | C1CCOC1 | C4H8O
product | 10-(5-Chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-8-((2-oxopyrrolidin-1-yl)methyl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)C1OC(CN2C1=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O)CN1C(CCC1)=O | C24H24ClN5O5S
